US07560549B2
2-[4-{[3,5-Bis(trifluoromethyl)phenyl]acetyl}-2-(3,4-dichlorophenyl)morpholin-2-yl]ethyl 4-chlorobenzenesulfonate
To a solution of 2-[4-{[3,5-bis(trifluoromethyl)phenyl]acetyl}-2-(3,4-dichlorophenyl)morpholin-2-yl]ethanol obtained in Reference Example 2 (2.0 g, 3.8 mmol) in methylene chloride (20 ml) were added dimethylaminopyridine (0.05 g, 0.38 mmol) and triethylamine (0.8 ml, 5.7 mmol) under a nitrogen stream, the resulting mixture was cooled to 0-5° C., and then a solution of 4-chlorobenzenesulfonyl chloride (0.96 g, 4.5 mmol) in methylene chloride (6 ml) was further added dropwise at below 10° C. After stirring at 0-5° C. for 6 hours, water (20 ml) and concentrated hydrochloric acid (0.5 ml) were added to the reaction mixture, and the resulting mixture was partitioned. The separated organic layer was washed with water (20 ml) and evaporated to dryness. The residue obtained was purified by chromatography on a silica gel column and then crystallized from a mixed solvent of ethyl acetate (2.4 ml) and methylcyclohexane (24 ml) under ice-cooling to afford the title compound [1.3 g, yield: 47.6%] as a colorless crystalline solid.

reactant | 2-[4-{[3,5-bis(trifluoromethyl)phenyl]acetyl}-2-(3,4-dichlorophenyl)morpholin-2-yl]ethanol | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)N1CC(OCC1)(C1=CC(=C(C=C1)Cl)Cl)CCO)(F)F | C22H19Cl2F6NO3
reactant | dimethylaminopyridine | 0.38 mmol, 0.05 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 5.7 mmol, 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 4.5 mmol, 0.96 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 2-[4-{[3,5-Bis(trifluoromethyl)phenyl]acetyl}-2-(3,4-dichlorophenyl)morpholin-2-yl]ethyl 4-chlorobenzenesulfonate | 1.3 g, yield: 47.6% | ClC1=CC=C(C=C1)S(=O)(=O)OCCC1(CN(CCO1)C(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=CC(=C(C=C1)Cl)Cl | C28H22Cl3F6NO5S
